US07091237B2
ethyl[4-(hydroxymethyl)-2,6-dimethylphenoxy]acetate
A solution of 4-(hydroxymethyl)-2,6-dimethylphenol (P. Claus et al., Monatsh. Chem. 1972, 103(4), 1178–1193) (1.9 g) in acetonitrile (50 ml) was treated with ethyl bromoacetate (2.17 g) and caesium carbonate (4.24 g) and the mixture stirred at room temperature overnight. The solution was concentrated and the residue partitioned between ethyl acetate and water. The organic layer was collected, dried over magnesium sulfate and filtered. The filtrate was concentrated to give the title compound as a yellow oil.

reactant | 4-(hydroxymethyl)-2,6-dimethylphenol | 1.9 g | OCC1=CC(=C(C(=C1)C)O)C | C9H12O2
reactant | ethyl bromoacetate | 2.17 g | BrCC(=O)OCC | C4H7BrO2
reactant | caesium carbonate | 4.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | ethyl[4-(hydroxymethyl)-2,6-dimethylphenoxy]acetate | C(C)OC(COC1=C(C=C(C=C1C)CO)C)=O | C13H18O4
